US08445510B2
2-Bromo-5,8-dioxaspiro[3.4]octane
A mixture of 3-bromocyclobutanone (5.90 g, 39.6 mmol), 1,2-ethanediol (8.6 mL, 158 mmol, 4 eq.) and PPTS (1.90 g, 7.92 mmol) in benzene (40 mL) was heated to reflux using Dean-Stark assembly. After 12 h, the reaction mixture was allowed to cool and washed with water (2×30 mL). The organic phase was dried (Na2SO4) and concentrated. The residue was purified using column chromatography (ethyl acetate/hexanes 1:5) to give the title compound (51% yield starting from 3-oxocyclobutanecarboxylic acid). 1H NMR (300 MHz, CDCl3): δ=2.77-2.82 (m, 4H), 2.95-3.00 (m, 4H), 4.19-4.23 (m, 1H).

reactant | 3-bromocyclobutanone | 39.6 mmol, 5.90 g | BrC1CC(C1)=O | C4H5BrO
reactant | 1,2-ethanediol | 158 mmol, 8.6 mL, 4 eq. | C(CO)O | C2H6O2
reactant | PPTS | 7.92 mmol, 1.90 g | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
solvent | benzene | 40 mL | C1=CC=CC=C1 | C6H6
product | 2-Bromo-5,8-dioxaspiro[3.4]octane | 51% yield | BrC1CC2(C1)OCCO2 | C6H9BrO2
